US05304458
Preparation of BA (Isoprene-2-Vinylpyridine Block Copolymer)
The diblock copolymer was prepared by a sequential addition of isoprene and and 2-vinylpyridine to secbutyllithium. Benzene (500 ml) was degassed as before with oxygen-free argon for 45 minutes. Secbutyllithium (0.8 ml of 1.3M, 1.04 mmoles) was syringed in followed by 63.13 g (0.93 moles) of isoprene. The solution was stirred at 35° C. for 15 minutes and 40° C. for 15 minutes. There was an exotherm to 45° C. The solution was stirred at 45° C. for 11/2 hours more. As before the magnetic stirring system was switched to a mechanical for more efficient stirring. An aliquot of polyisoprene was syringed out for determination of the molecular weight of the starting block and the solution cooled to 8° C. At this stage 2-vinylpyridine (27.06 g, 0.26 mole) was added. Chain transfer to 2-vinylpyridine was noticed by the dark red color. The solution was stirred at 8° C. for 30 minutes and was quenched with degassed methanol. As before, the copolymer was characterized by 1H NMR and GPC. These results are also summarized in Table 1.

reactant | isoprene | C=CC(C)=C | C5H8
reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | secbutyllithium | C(C)(CC)[Li]
reactant | Secbutyllithium | 1.04 mmoles, 1.3M, 0.8 ml | C(C)(CC)[Li]
reactant | isoprene | 0.93 moles, 63.13 g | C=CC(C)=C | C5H8
reactant | 2-vinylpyridine | 0.26 mole, 27.06 g | C(=C)C1=NC=CC=C1 | C7H7N
product | Isoprene 2-Vinylpyridine | C=CC(C)=C.C(=C)C1=NC=CC=C1 | InChI=1S/C7H7N.C5H8/c1-2-7-5-3-4-6-8-7;1-4-5(2)3/h2-6H,1H2;4H,1-2H2,3H3
